US04910307
(b) 9-Benzyloxy-6-chloro-2-formamidopurine
6-Benzyloxyamino-4-chloro-2,5-diformamidopyrimidine (1.2 g, 3.73 mmol) and diethoxymethyl acetate (20 ml) was stirred at 120° C. for 2.5 hours, cooled and evaporated under reduced pressure. The residue in methanol (20 ml) and concentrated ammonia solution (2 ml) was stirred at 20° C. for 1 hour, the solvent removed under reduced pressure and the residue co-evaporated with methanol. Column chromatography on silica gel (eluted with chloroform-ethanol, 100:1) afforded the title compound (700 mg, 62%). IR: νmax (KBr) 3119, 1702, 1611, 1577, 1505, 1440 cm-1 ; 1H NMR: δH [(CD3)2SO], 5.44 (2H, s, CH2Ph), 7.45 (5H, m, Ph), 8.54 (1H, s, H-8), 9.34 (1H, s, CHO), 11.30 (1H, br.s, D2O exchangeable, NH).

reactant | 6-Benzyloxyamino-4-chloro-2,5-diformamidopyrimidine | 3.73 mmol, 1.2 g | C(C1=CC=CC=C1)ONC1=C(C(=NC(=N1)NC=O)Cl)NC=O | C13H12ClN5O3
solvent | diethoxymethyl acetate | 20 ml | C(C)(=O)OC(OCC)OCC | C7H14O4
product | 9-Benzyloxy-6-chloro-2-formamidopurine | 700 mg, 62% | C(C1=CC=CC=C1)ON1C2=NC(=NC(=C2N=C1)Cl)NC=O | C13H10ClN5O2
